US04476228
To a solution containing 5-aminovaleric acid (5.85 g, 0.05 mol) in 100 ml of 2% aqueous sodium hydroxide and 100 ml of dioxane was dropwise added a solution containing di-t-butyldicarbonate (10.9 g, 0.05 mol) in 40 ml of dioxane. The reaction mixture was stirred for 18 hours and then acidified to pH 3 using 1N hydrochloric acid. The acidified mixture was extracted three times with dichloromethane. The organic layers were combined, washed with water, and dried over sodium sulfate to yield 10.1 g (93.5% yield) of 5-(t-butoxycarbonylamino)valeric acid as a white crystalline solid.

reactant | 5-aminovaleric acid | 0.05 mol, 5.85 g | NCCCCC(=O)O | C5H11NO2
reactant | di-t-butyldicarbonate | 0.05 mol, 10.9 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | sodium hydroxide | 100 ml | [OH-].[Na+]
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 5-(t-butoxycarbonylamino)valeric acid | 10.1 g, 93.5% yield | C(C)(C)(C)OC(=O)NCCCCC(=O)O | C10H19NO4
